US07612212B2
To the solution of 2-amino-4,4-dimethyl-pentanoic acid (2-fluoro-4-iodo-phenyl)-amide (364 mg, 1 mmol), (R)-tert-butoxycarbonylamino-[4-(2-tert-butoxy-ethoxy)-phenyl]-acetic acid (1 M in DMF, 1.1 mL, 1.1 mmol), 1-Hydroxybenzotriazole (168 mg, 1.1 mmol) and diisopropylethyl amine (0.53 mL, 3.3 mmol) in N,N-dimethylformamide (5 mL) was added dropwise the solution of O-benzotriazol-1-yl-N,N,N′,N′-bis(tetramethylene)uronium hexaflurorophosphate (474 mg, 1.1 mmol). The reaction mixture was stirred for 1 hour at room temperature. The reaction mixture was diluted with ethyl acetate and the mixture washed with water and brine. The organic layers were successively washed with 1 M aqueous citric acid solution, brine, saturated aqueous sodium carbonate, brine, dried over sodium sulfate, filtered, and concentrated to give {(R)-[4-(2-tert-butoxy-ethoxy)-phenyl]-[(S)-1-(2-fluoro-4-iodo-phenylcarbamoyl)-3,3-dimethyl-butylcarbamoyl]-methyl}carbamic acid tert-butyl ester (652 mg, 91%) as a white solid.

reactant | 2-amino-4,4-dimethyl-pentanoic acid (2-fluoro-4-iodo-phenyl)-amide | 1 mmol, 364 mg | FC1=C(C=CC(=C1)I)NC(C(CC(C)(C)C)N)=O | C13H18FIN2O
reactant | (R)-tert-butoxycarbonylamino-[4-(2-tert-butoxy-ethoxy)-phenyl]-acetic acid | 1.1 mmol, 1 M, 1.1 mL | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1=CC=C(C=C1)OCCOC(C)(C)C | C19H29NO6
reactant | 1-Hydroxybenzotriazole | 1.1 mmol, 168 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethyl amine | 3.3 mmol, 0.53 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {(R)-[4-(2-tert-butoxy-ethoxy)-phenyl]-[(S)-1-(2-fluoro-4-iodo-phenylcarbamoyl)-3,3-dimethyl-butylcarbamoyl]-methyl}carbamic acid tert-butyl ester | 652 mg, 91% | C(C)(C)(C)OC(N[C@@H](C(N[C@@H](CC(C)(C)C)C(NC1=C(C=C(C=C1)I)F)=O)=O)C1=CC=C(C=C1)OCCOC(C)(C)C)=O | C32H45FIN3O6
